US05461067
A. 1,1 -Diethoxy-4-((3,4,5,6-tetrahydro-2H-pyran-2-yl)oxy)-2-butyne
A 1M solution of ethylmagnesium bromide in THF (200 ml, 0.2 mol) was treated with 29 ml (0.2 mol) of a solution of 3,4,5,6-tetrahydro-2-(2-propynyloxy)-2H-pyran in toluene, while maintaining ambient temperature through use of a cool water bath. The resulting solution was stirred for 4 h and treated with 47 ml (0.28 mol) of a solution of triethylorthoformate in toluene, while maintaining ambient temperature with a cool water bath. The resulting solution was heated to 85° C. for 8 h, allowing the removal of THF by distillation. After being allowed to cool, the resulting solution was poured into 500 ml of ice-water containing 29 g of NH4OAc, extracted with two portions of ether, dried over K2CO3, and concentrated in vacuo. The residue was distilled at ca. 0.5 mm Hg pressure (b.p. 103°-108° C.) to provide 39.5 g (79%) of the desired compound.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | THF | 0.2 mol, 200 ml | C1CCOC1 | C4H8O
reactant | 3,4,5,6-tetrahydro-2-(2-propynyloxy)-2H-pyran | C(C#C)OC1OCCCC1 | C8H12O2
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,1 -Diethoxy-4-((3,4,5,6-tetrahydro-2H-pyran-2-yl)oxy)-2-butyne | 39.5 g, 79% | C(C)OC(C#CCOC1OCCCC1)OCC | C13H22O4
